US07173033B2
To a solution of (6-chloropyridazin-3-yl)hydrazine and triethylamine in THF, 3-cyanobenzoyl chloride was added with cooling in ice, and stirred at room temperature for 1 hour. The reaction solution was combined with water, and the precipitate was collected by filtration, washed with water and diethyl ether to obtain, N′-(6-chloropyridazin-3-yl) -3-cytanobenzohydrazide. To this, acetic acid was added, and the mixture was stirred at 110° C. for 2 hours, the reaction solution was concentrated under reduced pressure, and the resultant crude crystal was washed with ethanol to obtain 3-(6-chloro-1,2,4-triazolo[4,3-b]pyridazin-3-yl)benzonitrile. Dat (F:256).

reactant | (6-chloropyridazin-3-yl)hydrazine | ClC1=CC=C(N=N1)NN | C4H5ClN4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
solvent | THF | C1CCOC1 | C4H8O
product | 3-(6-chloro-1,2,4-triazolo[4,3-b]pyridazin-3-yl)benzonitrile | ClC=1C=CC=2N(N1)C(=NN2)C=2C=C(C#N)C=CC2 | C12H6ClN5
